US07709481B2
14.7 g 2-(1-Bromo-cyclohexyl)-4-bromomethyl-oxazole-5-carboxylic acid ethyl ester were dissolved in 150 ml methanol. 6.03 g sodium methylate were added and the reaction mixture stirred at 65° C. for one hour. The cooled reaction mixture was acidified by addition of acetic acid (pH˜6). The solvent was removed in vacuo. The residue was dissolved in 250 ml ethyl acetate and washed with 80 ml water and brine, dried over MgSO4 and then the solvent was removed in vacuo. The residue was purified by reversed phase HPLC to obtain 5.30 g 2-Cyclohex-1-enyl-4-methoxymethyl-oxazole-5-carboxylic acid methyl ester as an oil.

reactant | 2-(1-Bromo-cyclohexyl)-4-bromomethyl-oxazole-5-carboxylic acid ethyl ester | 14.7 g | C(C)OC(=O)C1=C(N=C(O1)C1(CCCCC1)Br)CBr | C13H17Br2NO3
reactant | sodium methylate | 6.03 g | C[O-].[Na+]
reactant | acetic acid | pH˜6 | C(C)(=O)O | C2H4O2
solvent | methanol | 150 ml | CO | CH4O
product | 2-Cyclohex-1-enyl-4-methoxymethyl-oxazole-5-carboxylic acid methyl ester | 5.30 g | COC(=O)C1=C(N=C(O1)C1=CCCCC1)COC | C13H17NO4
